US04575507
E. 3',4'-dihydrospiro[imidazolidine-4,1'(2'H)-naphthalene]2,3',5-trione
Starting with 4-(m-methylphenyl)-4-(carboxymethyl)imidazolidine 2,5-dione and 4-(m-methoxyphenyl)-4-(carboxymethyl) imidazolidine 2,5-dione and following the procedures of Example 2H-2E, 3',4'-dihydro-7'-methylspiro[imidazolidine-4,1'(2'H)-naphthalene]2,3',5-trione and 3',4'-dihydro-7'-methoxyspiro[imidazolidine-4,1'(2'H)-naphthalene]2,3',5-trione are prepared, respectively.

reactant | 4-(m-methylphenyl)-4-(carboxymethyl)imidazolidine 2,5-dione | CC=1C=C(C=CC1)C1(NC(NC1=O)=O)CC(=O)O | C12H12N2O4
reactant | 4-(m-methoxyphenyl)-4-(carboxymethyl) imidazolidine 2,5-dione | COC=1C=C(C=CC1)C1(NC(NC1=O)=O)CC(=O)O | C12H12N2O5
reactant | 3',4'-dihydro-7'-methylspiro[imidazolidine-4,1'(2'H)-naphthalene]2,3',5-trione | CC1=CC=C2CC(CC3(C2=C1)NC(NC3=O)=O)=O | C13H12N2O3
reactant | 3',4'-dihydro-7'-methoxyspiro[imidazolidine-4,1'(2'H)-naphthalene]2,3',5-trione | COC1=CC=C2CC(CC3(C2=C1)NC(NC3=O)=O)=O | C13H12N2O4
product | 3',4'-dihydrospiro[imidazolidine-4,1'(2'H)-naphthalene]2,3',5-trione | C12(CC(CC3=CC=CC=C13)=O)NC(NC2=O)=O | C12H10N2O3
